US06034248
1-(2,2-Diethoxyethyl)-3-[4-(1H-1,2,4-triazol-1-yl)phenyl]urea (14.5 g) was dissolved in a mixture of methanol (214 ml) and water (85 ml), to which diluted hydrochloric acid (0.48 M, 104 ml) was added dropwise. After the reaction solution was stirred at room temperature for 14 hours, the precipitated crystals were collected by filtration to give 1-[4-(1H-1,2,4-triazol-1-yl)phenyl]-2-(1H,3H)-imidazolone (8.0 g) as a colorless crystalline powder. The filtrate was concentrated under reduced pressure to about 200 ml and the precipitated crystals were collected by filtration to give an additional amount (1.08 g) of the product.

reactant | 1-(2,2-Diethoxyethyl)-3-[4-(1H-1,2,4-triazol-1-yl)phenyl]urea | 14.5 g | C(C)OC(CNC(=O)NC1=CC=C(C=C1)N1N=CN=C1)OCC | C15H21N5O3
solvent | methanol | 214 ml | CO | CH4O
solvent | water | 85 ml | O | H2O
solvent | hydrochloric acid | 0.48 M, 104 ml | Cl | ClH
product | 1-[4-(1H-1,2,4-triazol-1-yl)phenyl]-2-(1H,3H)-imidazolone | 8.0 g | N1(N=CN=C1)C1=CC=C(C=C1)N1C(NC=C1)=O | C11H9N5O
